US09278085B2
A solution of FeCl3.6H2O (81.0 g, 300 mmol) in water (100 mL) was added to a solution of 2,3-dimethyl-benzene-1,4-diol (13.8 g, 100 mmol) in MTBE (150 ml) at ambient temperature. Aqueous sodium hydroxide solution (2.5M, 60 mL, 150 mmol) was added to the vigorously stirring mixture and the reaction heated to 50° C. for 5 hrs. MTBE (150 mL) and water (150 mL) were added and the aqueous layer further extracted with MTBE (2×100 mL). The combined organics were washed with brine (100 mL), dried (Na2SO4), and concentrated to give the intermediate 2,3-dimethyl-[1,4]benzoquinone as an orange-yellow solid (12.0 g, 88%), which was used in the next step without further purification.

reactant | 2,3-dimethyl-benzene-1,4-diol | 100 mmol, 13.8 g | CC1=C(C=CC(=C1C)O)O | C8H10O2
reactant | sodium hydroxide | 150 mmol, 2.5M, 60 mL | [OH-].[Na+]
solvent | water | 100 mL | O | H2O
solvent | MTBE | 150 ml | CC(C)(C)OC | C5H12O
solvent | water | 150 mL | O | H2O
solvent | MTBE | 150 mL | CC(C)(C)OC | C5H12O
product | 2,3-dimethyl-[1,4]benzoquinone | 12.0 g, 88% | CC=1C(C=CC(C1C)=O)=O | C8H8O2
